US06806381B2
The bis-[3-isopropyl-4-methoxyphenyl] iodonium salt was reacted with 2,6-dibromo-4-nitrophenol in the presence of elemental copper and triethylamine, over the course of 4 to 5 days in the dark, to form 4-(4-nitro-2,6-dibromophenoxy)-2-isopropylphenol in 50 to 80% yield. The extended time required for the ether formation, its unpredictable yield, and the unusual necessity to exclude light are inefficiencies that also militate against commercial practice of this synthetic route.

reactant | bis-[3-isopropyl-4-methoxyphenyl] iodonium | C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
reactant | 2,6-dibromo-4-nitrophenol | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)O | C6H3Br2NO3
catalyst | copper | [Cu] | Cu
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(4-nitro-2,6-dibromophenoxy)-2-isopropylphenol | 50 to 80% yield | [N+](=O)([O-])C1=CC(=C(OC2=CC(=C(C=C2)O)C(C)C)C(=C1)Br)Br | C15H13Br2NO4
